2165-04-23 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2165-4-22**] 09:45 AM
 ULTRASOUND - At [**2165-4-22**] 10:00 AM
   renal US
 EEG - At [**2165-4-22**] 10:45 AM
   [**4-22**]
   - started nafcillin for MSSA cx data from OSH, d/c'd vanc and
   ceftriaxone
   - Podiatry: MSSA in foot ulcer, osteo in left first toe, recc'd c/s
   vascular for toe amputation
   - Vascular: no emergent TMA (trans metatarsal amputation) at this point
   --> and if needed, would be L BKA
   - Gen [**Doctor First Name **]: dilated transverse colon dilation improving, consider
   rectal study
   - renal: ARF likely ATN from sepsis
   - neuro: strongly recommend LP to r/o infection and SAH; we deferred
   for now
   Allergies:
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2165-4-22**] 12:09 AM
   Ceftriaxone - [**2165-4-22**] 03:06 AM
   Vancomycin - [**2165-4-22**] 08:00 AM
   Nafcillin - [**2165-4-23**] 05:00 AM
   Infusions:
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2165-4-23**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-23**] 02:46 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-23**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.2
C (98.9
   HR: 76 (68 - 86) bpm
   BP: 99/54(66) {86/45(56) - 143/62(78)} mmHg
   RR: 26 (9 - 27) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 18 (9 - 18)mmHg
   Total In:
                                                                  4,795 mL
                                                                    597 mL
   PO:
   TF:
   IVF:
                                                                  4,670 mL
                                                                    597 mL
   Blood products:
   Total out:
                                                                    249 mL
                                                                    100 mL
   Urine:
                                                                    249 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,546 mL
                                                                    497 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 600) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 23 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 94%
   ABG: 7.33/45/94.[**Numeric Identifier 433**]/22/-2
   Ve: 12.1 L/min
   PaO2 / FiO2: 188
   Physical Examination
   GEN: Intubated, grimaces to painful stimuli, not following commands.
   HEENT: PERRL but sluggish
   Pulm distant breath sounds, but otherwise CTAB anteriorly
   CV: distant heart sounds, No M/R/G
   Abd: soft, Mild distention, No BS
   Extr: LLE with bandage C/D/I, Barely dopplerable pulses, but WWP
   Labs / Radiology
   231 K/uL
   8.6 g/dL
   163 mg/dL
   6.5 mg/dL
   22 mEq/L
   4.3 mEq/L
   66 mg/dL
   102 mEq/L
   137 mEq/L
   26.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2165-4-21**]  09:50 PM
                             [**2165-4-21**]  10:00 PM
                             [**2165-4-22**]  03:35 AM
                             [**2165-4-22**]  03:48 AM
                             [**2165-4-22**]  07:54 AM
                             [**2165-4-22**]  11:00 AM
                             [**2165-4-22**]  04:01 PM
                             [**2165-4-22**]  05:31 PM
                             [**2165-4-23**]  03:00 AM
                             [**2165-4-23**]  03:25 AM
   WBC
   13.9
   11.0
   10.7
   Hct
   28.7
   25.8
   26.4
   Plt
   [**Telephone/Fax (3) 6377**]
   Cr
   4.7
   4.8
   6.5
   TropT
   0.12
   TCO2
   30
   28
   26
   26
   26
   24
   25
   Glucose
   157
   107
   163
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/26, Lactic Acid:0.8 mmol/L, Albumin:2.2 g/dL,
   LDH:245 IU/L, Ca++:8.2 mg/dL, Mg++:2.6 mg/dL, PO4:4.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6349**] is a 55 yo male with DM 2, HTN, CAD s/p IMI and DES to
   RCAx3 transferred from OSH for high-grade bacteremia, foot ulcer, AMS,
   and ARF.
   # Sepsis: In setting of high grade bacteremia.  Levophed off briefly ,
   but back on this AM.
   - Wean pressors, goal MAP>65
   - Continue Nafcillin (MSSA likely from foot)
   - Trend WBC and fever curve
   # ID: Patient with high grade bacteremia (4/4 bottles with GPCs) and
   report of wound culture with MSSA.  Source is likely diabetic foot
   ulcer/osteo. No CVL access in terms of line infections.  Would also
   need to consider endocarditis as source of infection.  Meningitis also
   considered given AMS, although LP deferred given likely source of
   bacterimia.  Echo with normal valves. Mild LVH, EF > 55%.  Foot plain
   film read suspicious for osteo.
   - Continue nafcillin.
   - Low suspicion for meningitis, as patient was already hospitalized for
   4 days and a nosocomial meningitis is unlikely. Consider LP although
   has been on abx so unlikely to help r/o meningitis.
   - Trend WBC and fever. Consider TEE if bcx continue to be positive or
   fevers [**First Name7 (NamePattern1) 344**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **].
   - F/u  podiatry and vascular surgery recs
 for now they will defer
   amputation and await extubation of patient for surgery.
   # Neuro: CTH negative for acute intracranial process. Likely
   multifactorial given high grade sepsis/bacteremia, ARF, and excessive
   narcotic use.
   - Consider LP for ?SAH despite nl head ct
   - As above, transitioned to nafcillin for MSSA
   - d/c ceftriaxone as suspicion for meningitis low
   - Follow-up neuro recs if any
   - Serial neuro exams
   # ARF: Creatinine trending up now to 6.5 from 1.3 at OSH. Differential
   includes contrast induced nephropathy, pre-renal, AIN in setting of
   antibiotic therapy, and ATN given sepsis and hypotension.  FeNa 1.1
   with negative urine eos. Patient continues to be oliguric/anuric with
   4.5L IVF challenge.  Renal U/S without hydronephrosis.
   - Trend UOP and creatinine
   - Renal c/s
   - Obtain [**Hospital1 49**] path records.
   - Monitor UOP->may need Hd for fluid overload to help respiratory
   status.
   # Respiratory Failure: Patient intubated given AMS and ?seizure for
   airway protection.  P/F <200, although patient does not have classic
   bilateral infiltrates. He also has a history of CAD, and in setting of
   volume challenge may have element of heart failure, making ARDS
   clinical diagnosis unclear. If needs diuresis will require HD most
   likely as currently anuric in setting of ARF
   - Low volume ARDS settings for now.
   - Daily RSBI and SBT if appropriate
   - Head of the bed elevated
   - H2 blocker while intubated
   - VAP bundle
   # Ileus: Demonstrated on OSH imaging. KUB wetread with distended
   transverse colon of 12 cm.  Most likely etiology is excessive narcotic
   use as patient was on high doses of MS Contin as an outpatient and
   continued to take narcotics at the OSH.
   - PO Naloxone
   - OGT to low-intermitent suction
   - NPO
   - Hold narcotics
   - Upload OSH imaging and review with radiology.
   - f/u Gen [**Doctor First Name **] rec.
   # DM: Patient likely to have elevated FS while with infection.
   - Insulin SS
   .
   # CAD s/p IMI: Ruled out for MI at OSH.
   - Continue ASA/Plavix. Unclear why patient is not on a BB or statin
   - Hold Ace/[**Last Name (un) 284**] in the setting of ARF
   .
   # Gout
   - Renally dose Allopurinol
   FEN: NPO, IVF, replete as necessary
   PPx: Heparin SQ, H2B, bowel regimen.
   Access:  RIJ CVL
   Code: FULL
   Communication: [**Name (NI) **] wife, [**Name (NI) 4551**] (RN) [**Telephone/Fax (1) 6343**] - cell
   Disposition: ICU level of care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-21**] 07:50 PM
   Arterial Line - [**2165-4-21**] 10:24 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2165-04-24 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2165-4-23**] 05:00 PM
   unsuccessful
 BLOOD CULTURED - At [**2165-4-23**] 06:25 PM
   [**4-23**]:
   - Attempted LP but unsuccessful ->wrote for IR guided tomorrow
   - Fam meeting scheduled for 3pm [**4-24**]
   - Surgery recommended KUB in am and if worse would consider colonoscopy
   for diagnosis and decompression but thought would likely be unnecessary
   since was getting better comparing sequential KUBs over last few days.
   Patient started passing flatus at night so no further workup except KUB
   in am.
   - Neuro still strongly advise LP. EEG pending
   - Vascular surgery will not do emergent TMA. If needs surgery will do L
   BKA. Wife does not want this.
   - UCx from [**4-21**] grew staph. Sensitivities pending. Continuing nafcillin
   but if spikes temp may consider vanc.
   - Renal: No need for HD today but if creatinine continues to climb will
   need it in next 1-2days
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2165-4-22**] 12:09 AM
   Ceftriaxone - [**2165-4-22**] 03:06 AM
   Vancomycin - [**2165-4-22**] 08:00 AM
   Nafcillin - [**2165-4-24**] 04:34 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-23**] 08:00 AM
   Famotidine (Pepcid) - [**2165-4-24**] 04:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-24**] 06:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.3
C (99.1
   HR: 83 (59 - 85) bpm
   BP: 102/50(64) {90/45(59) - 141/63(83)} mmHg
   RR: 25 (22 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 30 (13 - 30)mmHg
   Total In:
                                                                  1,779 mL
                                                                    498 mL
   PO:
   TF:
   IVF:
                                                                  1,684 mL
                                                                    438 mL
   Blood products:
   Total out:
                                                                    557 mL
                                                                    270 mL
   Urine:
                                                                    307 mL
                                                                     70 mL
   NG:
                                                                    250 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,222 mL
                                                                    228 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.34/43/98.[**Numeric Identifier 500**]/22/-2
   Ve: 12.6 L/min
   PaO2 / FiO2: 196
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Diminished), (Left DP pulse: Not
   assessed), L foot with bandage C/D/I
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: throughout)
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   274 K/uL
   9.2 g/dL
   199 mg/dL
   7.8 mg/dL
   22 mEq/L
   4.7 mEq/L
   74 mg/dL
   100 mEq/L
   137 mEq/L
   28.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2165-4-22**]  03:35 AM
                             [**2165-4-22**]  03:48 AM
                             [**2165-4-22**]  07:54 AM
                             [**2165-4-22**]  11:00 AM
                             [**2165-4-22**]  04:01 PM
                             [**2165-4-22**]  05:31 PM
                             [**2165-4-23**]  03:00 AM
                             [**2165-4-23**]  03:25 AM
                             [**2165-4-24**]  03:09 AM
                             [**2165-4-24**]  04:07 AM
   WBC
   11.0
   10.7
   12.2
   Hct
   25.8
   26.4
   28.0
   Plt
   189
   231
   274
   Cr
   4.8
   6.5
   7.8
   TCO2
   28
   26
   26
   26
   24
   25
   24
   Glucose
   107
   163
   199
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/26, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL,
   LDH:245 IU/L, Ca++:8.1 mg/dL, Mg++:2.9 mg/dL, PO4:5.3 mg/dL
   Assessment and Plan
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
   Mr. [**Known lastname 6349**] is a 55 yo male with DM 2, HTN, CAD s/p IMI and DES to
   RCAx3 transferred from OSH for high-grade bacteremia, foot ulcer, AMS,
   and ARF.
   # Sepsis: In setting of high grade bacteremia.  Levophed off briefly ,
   but back on this AM.
   - Wean pressors, goal MAP>65
   - Continue Nafcillin (MSSA likely from foot)
   - Trend WBC and fever curve
   # ID: Patient with high grade bacteremia (4/4 bottles with GPCs) and
   report of wound culture with MSSA.  Source is likely diabetic foot
   ulcer/osteo. No CVL access in terms of line infections.  Would also
   need to consider endocarditis as source of infection.  Meningitis also
   considered given AMS, although LP deferred given likely source of
   bacterimia.  Echo with normal valves. Mild LVH, EF > 55%.  Foot plain
   film read suspicious for osteo.
   - Continue nafcillin.
   - Low suspicion for meningitis, as patient was already hospitalized for
   4 days and a nosocomial meningitis is unlikely. Consider LP although
   has been on abx so unlikely to help r/o meningitis.
   - Trend WBC and fever. Consider TEE if bcx continue to be positive or
   fevers [**First Name7 (NamePattern1) 344**]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **].
   - F/u  podiatry and vascular surgery recs
 for now they will defer
   amputation and await extubation of patient for surgery.
   # Neuro: CTH negative for acute intracranial process. Likely
   multifactorial given high grade sepsis/bacteremia, ARF, and excessive
   narcotic use.
   - Consider LP for ?SAH despite nl head ct
   - As above, transitioned to nafcillin for MSSA
   - d/c ceftriaxone as suspicion for meningitis low
   - Follow-up neuro recs if any
   - Serial neuro exams
   # ARF: Creatinine trending up now to 6.5 from 1.3 at OSH. Differential
   includes contrast induced nephropathy, pre-renal, AIN in setting of
   antibiotic therapy, and ATN given sepsis and hypotension.  FeNa 1.1
   with negative urine eos. Patient continues to be oliguric/anuric with
   4.5L IVF challenge.  Renal U/S without hydronephrosis.
   - Trend UOP and creatinine
   - Renal c/s
   - Obtain [**Hospital1 49**] path records.
   - Monitor UOP->may need Hd for fluid overload to help respiratory
   status.
   # Respiratory Failure: Patient intubated given AMS and ?seizure for
   airway protection.  P/F <200, although patient does not have classic
   bilateral infiltrates. He also has a history of CAD, and in setting of
   volume challenge may have element of heart failure, making ARDS
   clinical diagnosis unclear. If needs diuresis will require HD most
   likely as currently anuric in setting of ARF
   - Low volume ARDS settings for now.
   - Daily RSBI and SBT if appropriate
   - Head of the bed elevated
   - H2 blocker while intubated
   - VAP bundle
   # Ileus: Demonstrated on OSH imaging. KUB wetread with distended
   transverse colon of 12 cm.  Most likely etiology is excessive narcotic
   use as patient was on high doses of MS Contin as anoutpatient and
   continued to take narcotics at the OSH.
   - PO Naloxone
   - OGT to low-intermitent suction
   - NPO
   - Hold narcotics
   - Upload OSH imaging and review with radiology.
   - f/u Gen [**Doctor First Name **] rec.
   # DM: Patient likely to have elevated FS while with infection.
   - Insulin SS
   .
   # CAD s/p IMI: Ruled out for MI at OSH.
   - Continue ASA/Plavix. Unclear why patient is not on a BB or statin
   - Hold Ace/[**Last Name (un) 284**] in the setting of ARF
   .
   # Gout
   - Renally dose Allopurinol
   FEN: NPO, IVF, replete as necessary
   PPx: Heparin SQ, H2B, bowel regimen.
   Access:  RIJ CVL
   Code: FULL
   Communication: [**Name (NI) **] wife, [**Name (NI) 4551**] (RN) [**Telephone/Fax (1) 6343**] - cell
   Disposition: ICU level of care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-21**] 07:50 PM
   Arterial Line - [**2165-4-21**] 10:24 PM
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer:   H2 blocker
   VAP:  bundle [**Hospital1 **]
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2165-04-25 05:13:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 LUMBAR PUNCTURE - At [**2165-4-24**] 12:00 PM
 ANGIOGRAPHY - At [**2165-4-24**] 12:00 PM
   [**2165-4-24**]:
   - Family meeting: explained renal failure, meningitis, and pt was made
   DNR
   - LP cell count c/w bacterial meningitis. Started on vanc, ceftriaxone,
   and acyclovir. WBC not c/w untreated listeria x 5 days so ampicillin
   not started. Plan for TEE in AM. MRI/MRV head ordered to r/o venous
   sinus thrombosis per neuro recs.
   [- KUB: Single loop of prominent air-filled bowel seen in the mid
   abdomen minimally changed since [**2165-4-21**], though the marked
   dilation of the transverse colon seen at that time is no longer
   apparent.]
   - Spoke with family about Renal Cell Carcinoma diagnosis. Apparrently
   he has a 2 cm mass without mets on CT torso.  He was planning on
   cryoablation.
   - In PM, desatted to 88% with decreased SBP 80s. Suctioned with
   improvement in O2sats to only 91%, question of aspiration given
   suctioning of increased bile-colored sputum. Of note, seen by RN to
   cough up bilious emesis during LP with subsequent smaller episode
   during day. Restarted on lowest dose levophed with improvement to 120s.
   ABG 7.34/46/84 -> 7.33/44/68. Recruitment maneuvers tried; PEEP
   increased to 17 with worsening so FiO2 increased 50% to 70% instead
   with improvement.
   **AM ABG, TEE, MRV/MRI, ID c/s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-22**] 08:00 AM
   Nafcillin - [**2165-4-24**] 12:00 PM
   Ceftriaxone - [**2165-4-24**] 03:30 PM
   Acyclovir - [**2165-4-24**] 04:00 PM
   Infusions:
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Propofol - [**2165-4-24**] 11:30 AM
   Fentanyl - [**2165-4-24**] 12:00 PM
   Famotidine (Pepcid) - [**2165-4-25**] 12:39 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-25**] 12:39 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-25**] 05:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 80 (72 - 88) bpm
   BP: 146/64(86) {88/47(58) - 146/71(93)} mmHg
   RR: 25 (8 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 12 (11 - 15)mmHg
   Total In:
                                                                  1,752 mL
                                                                    194 mL
   PO:
   TF:
   IVF:
                                                                  1,272 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                    423 mL
                                                                     32 mL
   Urine:
                                                                    223 mL
                                                                     32 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,329 mL
                                                                    162 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10, FiO2 > 60%
   PIP: 27 cmH2O
   Plateau: 23 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 95%
   ABG: 7.33/44/68//-2
   Ve: 12.4 L/min
   PaO2 / FiO2: 97
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Respiratory / Chest: Symmetric but diminished BS throughout )
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, L foot with bandage C/D/I
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   274 K/uL
   9.2 g/dL
   199 mg/dL
   7.8 mg/dL
   22 mEq/L
   4.7 mEq/L
   74 mg/dL
   100 mEq/L
   137 mEq/L
   28.0 %
   12.2 K/uL
        [image002.jpg]
                             [**2165-4-22**]  07:54 AM
                             [**2165-4-22**]  11:00 AM
                             [**2165-4-22**]  04:01 PM
                             [**2165-4-22**]  05:31 PM
                             [**2165-4-23**]  03:00 AM
                             [**2165-4-23**]  03:25 AM
                             [**2165-4-24**]  03:09 AM
                             [**2165-4-24**]  04:07 AM
                             [**2165-4-24**]  05:58 PM
                             [**2165-4-24**]  09:16 PM
   WBC
   10.7
   12.2
   Hct
   26.4
   28.0
   Plt
   231
   274
   Cr
   6.5
   7.8
   TCO2
   26
   26
   26
   24
   25
   24
   26
   24
   Glucose
   163
   199
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/26, Lactic Acid:0.7 mmol/L, Albumin:2.2 g/dL,
   LDH:245 IU/L, Ca++:8.1 mg/dL, Mg++:2.9 mg/dL, PO4:5.3 mg/dL
   Imaging: KUB: Single loop of prominent air-filled bowel seen in the mid
   abdomen minimally changed since [**2165-4-21**], though the marked
   dilation of the transverse colon seen at that time is no longer
   apparent
   Assessment and Plan
   55 yo male with DM 2, HTN, CAD s/p IMI and DES to RCAx3 transferred
   from OSH for high-grade bacteremia, foot ulcer, AMS, and ARF with
   meningitis on LP.
   # Sepsis: In setting of high grade bacteremia.  Levophed PRN.
   - goal MAP>60->will reassess pressure goals once MRI done as may change
   in setting of thrombosis
   - Continue CTX, Vanc (dosed by level), and acyclovir
   - f/u blood and CSF cxs
   - Trend WBC and fever curve
   - Because wbc lower than expected in CSF may be treated meningitis in
   which case cultures may be negative
   # ID: Patient with high grade bacteremia (4/4 bottles with GPCs) and
   report of wound culture with MSSA.  Source is likely diabetic foot
   ulcer/osteo. No Would also need to consider endocarditis as source of
   infection.    Echo with normal valves. Mild LVH, EF > 55%.  Foot plain
   film read suspicious for osteo.  LP showed menigitis
   - Transitioned Abx to CTX, Vanc (dosed by level), and Acyclovir
   - Trend WBC and fever.
   - TEE for ? endocarditis.
   - F/u  podiatry and vascular surgery recs
 for now they will defer
   amputation and await extubation of patient for surgery.
   # Neuro: CTH negative for acute intracranial process. LP had
   meningitis. EEG c/w alpha coma which correlates with poor-prognosis and
   concerning for higher-grade brain pathology or venous thrombosis
   - As above, transitioned to Abx to cover meningitis
   - MRI/V today to assess for venous thrombosis in setting of high grade
   meningitis
   - Follow-up neuro recs if any
   - Serial neuro exams
   - responding to pain still so Propofol continued
 follow TGs and
   lipase
   # ARF: Creatinine trending up now to 7.8  from 1.3 at OSH.  Muddy brown
   casts seen and ATN suspected from sepsis and hypotension.  FeNa 1.1
   with negative urine eos. Patient continues to be oliguric/anuric.
   Renal U/S without hydronephrosis.
   - Trend UOP and creatinine
   - Renal c/s
   - will need HD today or tomorrow unless MRI confirms poor prognosis and
   goc change
   # Respiratory Failure: Patient intubated given AMS for airway
   protection.  P/F <200, although patient does not have classic bilateral
   infiltrates. He also has a history of CAD, and in setting of volume
   challenge may have element of heart failure, making ARDS clinical
   diagnosis unclear. If UOP does not pick up, likely will require
   dialysis to improve respiratory status.
   - Daily RSBI and SBT if appropriate
   - Head of the bed elevated
   - H2 blocker while intubated
   - VAP bundle
   - Wean FiO2 as able
   # Ileus: Demonstrated on OSH imaging. KUB with improved colonic
   distention.  Most likely etiology is excessive narcotic use as patient
   was on high doses of MS Contin as an outpatient and continued to take
   narcotics at the OSH.
   - patient passed stool this morning
   - PO Naloxone
   - OGT to low-intermitent suction
   - f/u Gen [**Doctor First Name **] rec.
   # DM: Patient likely to have elevated FS while with infection.
   - Increased Insulin SS and baseline insulin with better control of FSBS
   last few checks
   .
   # CAD s/p IMI: Ruled out for MI at OSH.
   - Continue ASA/Plavix. Unclear why patient is not on a BB or statin
   - Hold Ace/[**Last Name (un) 284**] in the setting of ARF
   ICU Care
   Nutrition: NPO, IVF, replete as necessary
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-21**] 07:50 PM
   Arterial Line - [**2165-4-21**] 10:24 PM
   Prophylaxis:
   DVT: Heparin SC
   Stress ulcer: H2B
   VAP:  bundle
   Comments:
   Communication:  Comments: [**Name (NI) **] wife, [**Name (NI) 4551**] (RN) [**Telephone/Fax (1) 6343**] -
   cell
   Code status: DNR
   Disposition: ICU
   ------ Protected Section ------
   # New infiltrate on CXR: Consider adding another antibiotic for better
   coverage if hypoxia worsens, sputum culture shows resistant organism,
   or febrile.
   #. Gout: With renal failure will d/c allopurinol
   ------ Protected Section Addendum Entered By:[**Name (NI) 2476**] [**Last Name (NamePattern1) 5142**], MD
   on:[**2165-4-25**] 09:52 ------

2165-04-26 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2165-4-25**] 11:00 AM
 MAGNETIC RESONANCE IMAGING - At [**2165-4-25**] 04:20 PM
   [**2165-4-25**]
   - Neuro was concerned about alpha coma on EEG and wanted MRI/MRV.
   Neuro and radiology saw scan without evidence of sinus venous
   thrombosis or ischemic event.
   - TEE showed no vegitations or concern for endocarditis.
   - Family updated on results of MRI/MRV and would like to proceed with
   dialysis.
   - Renal planning for HD line AM [**2165-4-26**] and dialysis after.
   - Triglicerides of 564, transitioned off propafol to fent/versed.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2165-4-24**] 12:00 PM
   Acyclovir - [**2165-4-25**] 03:59 PM
   Ceftriaxone - [**2165-4-26**] 02:21 AM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-26**] 02:21 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-26**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.3
C (97.3
   HR: 75 (63 - 80) bpm
   BP: 127/58(77) {101/45(59) - 145/76(95)} mmHg
   RR: 26 (16 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 15 (15 - 18)mmHg
   Total In:
                                                                  1,392 mL
                                                                    233 mL
   PO:
   TF:
   IVF:
                                                                  1,152 mL
                                                                    143 mL
   Blood products:
   Total out:
                                                                    331 mL
                                                                     70 mL
   Urine:
                                                                    331 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,061 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 0
   PEEP: 20 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 35 cmH2O
   Plateau: 30 cmH2O
   SpO2: 98%
   ABG: 7.29/44/135/20/-4
   Ve: 12.1 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Respiratory / Chest: Symmetric but diminished BS throughout )
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, L foot with bandage C/D/I
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   310 K/uL
   8.4 g/dL
   158 mg/dL
   9.8 mg/dL
   20 mEq/L
   5.5 mEq/L
   90 mg/dL
   99 mEq/L
   137 mEq/L
   26.4 %
   12.2 K/uL
        [image002.jpg]
                             [**2165-4-24**]  03:09 AM
                             [**2165-4-24**]  04:07 AM
                             [**2165-4-24**]  05:58 PM
                             [**2165-4-24**]  09:16 PM
                             [**2165-4-25**]  04:55 AM
                             [**2165-4-25**]  05:07 AM
                             [**2165-4-25**]  01:46 PM
                             [**2165-4-25**]  09:01 PM
                             [**2165-4-26**]  03:00 AM
                             [**2165-4-26**]  03:18 AM
   WBC
   12.2
   13.7
   12.2
   Hct
   28.0
   27.6
   26.4
   Plt
   274
   317
   310
   Cr
   7.8
   9.0
   9.8
   TCO2
   24
   26
   24
   25
   23
   21
   22
   Glucose
   199
   161
   158
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/19, Lactic Acid:0.6 mmol/L, Albumin:2.2 g/dL,
   LDH:245 IU/L, Ca++:8.3 mg/dL, Mg++:3.4 mg/dL, PO4:9.3 mg/dL
   Assessment and Plan
 MENINGITIS, BACTERIAL
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
   55 yo male with DM 2, HTN, CAD s/p IMI and DES to RCAx3 transferred
   from OSH for high-grade bacteremia, foot ulcer, AMS, and ARF with
   meningitis on LP.
   # Sepsis: In setting of high grade bacteremia.  Levophed PRN.
   - goal MAP>60->will reassess pressure goals once MRI done as may change
   in setting of thrombosis
   - Continue CTX, Vanc (dosed by level), and acyclovir
   - f/u blood and CSF cxs
   - Trend WBC and fever curve
   - Because wbc lower than expected in CSF may be treated meningitis in
   which case cultures may be negative
   # ID: Patient with high grade bacteremia (4/4 bottles with GPCs) and
   report of wound culture with MSSA.  Source is likely diabetic foot
   ulcer/osteo. No Would also need to consider endocarditis as source of
   infection.    Echo with normal valves. Mild LVH, EF > 55%.  Foot plain
   film read suspicious for osteo.  LP showed menigitis
   - Transitioned Abx to CTX, Vanc (dosed by level), and Acyclovir
   - Trend WBC and fever.
   - TEE for ? endocarditis.
   - F/u  podiatry and vascular surgery recs
 for now they will defer
   amputation and await extubation of patient for surgery.
   # Neuro: CTH negative for acute intracranial process. LP had
   meningitis. EEG c/w alpha coma which correlates with poor-prognosis and
   concerning for higher-grade brain pathology or venous thrombosis
   - As above, transitioned to Abx to cover meningitis
   - MRI/V today to assess for venous thrombosis in setting of high grade
   meningitis
   - Follow-up neuro recs if any
   - Serial neuro exams
   - responding to pain still so Propofol continued
 follow TGs and
   lipase
   # ARF: Creatinine trending up now to 7.8  from 1.3 at OSH.  Muddy brown
   casts seen and ATN suspected from sepsis and hypotension.  FeNa 1.1
   with negative urine eos. Patient continues to be oliguric/anuric.
   Renal U/S without hydronephrosis.
   - Trend UOP and creatinine
   - Renal c/s
   - will need HD today or tomorrow unless MRI confirms poor prognosis and
   goc change
   # Respiratory Failure: Patient intubated given AMS for airway
   protection.  P/F <200, although patient does not have classic bilateral
   infiltrates. He also has a history of CAD, and in setting of volume
   challenge may have element of heart failure, making ARDS clinical
   diagnosis unclear. If UOP does not pick up, likely will require
   dialysis to improve respiratory status.
   - Daily RSBI and SBT if appropriate
   - Head of the bed elevated
   - H2 blocker while intubated
   - VAP bundle
   - Wean FiO2 as able
   # Ileus: Demonstrated on OSH imaging. KUB with improved colonic
   distention.  Most likely etiology is excessive narcotic use as patient
   was on high doses of MS Contin as an outpatient and continued to take
   narcotics at the OSH.
   - patient passed stool this morning
   - PO Naloxone
   - OGT to low-intermitent suction
   - f/u Gen [**Doctor First Name **] rec.
   # DM: Patient likely to have elevated FS while with infection.
   - Increased Insulin SS and baseline insulin with better control of FSBS
   last few checks
   .
   # CAD s/p IMI: Ruled out for MI at OSH.
   - Continue ASA/Plavix. Unclear why patient is not on a BB or statin
   - Hold Ace/[**Last Name (un) 284**] in the setting of ARF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-21**] 07:50 PM
   Arterial Line - [**2165-4-21**] 10:24 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2165-04-27 06:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Started HD -> 500mL taken off.
   - Peep weaned down to 16.
   - Started TFs but discontinued for aspiration. Tolerated later when
   restarted.
   - Started insulin gtt for hyperglycemia
   - Called OSH for wound culture but no record
   - Neuro signed off.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Nafcillin - [**2165-4-24**] 12:00 PM
   Acyclovir - [**2165-4-25**] 03:59 PM
   Ceftriaxone - [**2165-4-27**] 04:50 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Insulin - Regular - 2 units/hour
   Fentanyl (Concentrate) - 150 mcg/hour
   Other ICU medications:
   Fentanyl - [**2165-4-26**] 03:00 PM
   Hydralazine - [**2165-4-26**] 09:40 PM
   Famotidine (Pepcid) - [**2165-4-27**] 01:14 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-27**] 01:14 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-27**] 06:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.9
C (98.4
   HR: 81 (70 - 99) bpm
   BP: 157/57(83) {104/47(63) - 191/85(117)} mmHg
   RR: 26 (16 - 30) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 14 (14 - 17)mmHg
   Total In:
                                                                    718 mL
                                                                    327 mL
   PO:
   TF:
                                                                     32 mL
                                                                     69 mL
   IVF:
                                                                    436 mL
                                                                    258 mL
   Blood products:
   Total out:
                                                                    734 mL
                                                                    918 mL
   Urine:
                                                                    234 mL
                                                                    118 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -16 mL
                                                                   -591 mL
   Respiratory support
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 26
   RR (Spontaneous): 2
   PEEP: 16 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   Compliance: 112.5 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/43/104/24/0
   Ve: 11.8 L/min
   PaO2 / FiO2: 208
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Respiratory / Chest: Symmetric but diminished BS throughout )
   Abdominal: Soft
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed, L foot with bandage C/D/I
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   348 K/uL
   8.4 g/dL
   120 mg/dL
   8.0 mg/dL
   24 mEq/L
   4.2 mEq/L
   68 mg/dL
   103 mEq/L
   142 mEq/L
   25.1 %
   11.9 K/uL
        [image002.jpg]
                             [**2165-4-24**]  09:16 PM
                             [**2165-4-25**]  04:55 AM
                             [**2165-4-25**]  05:07 AM
                             [**2165-4-25**]  01:46 PM
                             [**2165-4-25**]  09:01 PM
                             [**2165-4-26**]  03:00 AM
                             [**2165-4-26**]  03:18 AM
                             [**2165-4-26**]  07:00 PM
                             [**2165-4-27**]  04:29 AM
                             [**2165-4-27**]  04:49 AM
   WBC
   13.7
   12.2
   11.9
   Hct
   27.6
   26.4
   25.1
   Plt
   [**Telephone/Fax (3) 6463**]
   Cr
   9.0
   9.8
   8.0
   TCO2
   24
   25
   23
   21
   22
   26
   26
   Glucose
   161
   158
   120
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/19, Lactic Acid:0.6 mmol/L, Albumin:2.2 g/dL,
   LDH:245 IU/L, Ca++:8.1 mg/dL, Mg++:3.1 mg/dL, PO4:7.1 mg/dL
   CSF fluid 4+ PML but no microorg on gram stain, cx pending. Resp cx
   (prelim): coag +staph, yeast
   Assessment and Plan
   55 yo male with DM 2, HTN, CAD s/p IMI and DES to RCAx3 transferred
   from OSH for high-grade bacteremia, foot ulcer, AMS, and ARF with
   meningitis on LP.
   # ID:  Patient with high grade MSSA bacteremia and UTI; source thought
   to be diabetic foot ulcer given OSH report of MSSA wound culture and
   plain film here suspicious for osteo. Now also with meningitis, cx
   pending and staph coag+ sputum. TEE [**2165-4-25**] ruled out endocarditis. Has
   not been on levophed since [**4-24**]. Pt afebrile with mildly improved
   leukocytosis today.
   - Goal MAP>60; levophed prn
   - Trend WBC and fever curve
   - F/u blood and CSF cx; because wbc lower than expected in CSF, may be
   treated meningitis in which case cx may be negative
   - Continue Ctx, vanc (dosed by level; f/u ID recs
   - F/u podiatry and vascular surgery recs; for now they will defer
   amputation and await extubation of patient for surgery.
   # Neuro: No evidence of venous sinus thrombosis or other intracranial
   process on MRI/MRV. LP c/w bacterial meningitis.
   - Cont Ctx and vanc as above for now
   - Serial neuro exams
   - Pain control with fentanyl/midaz
   - Neuro signed off
   # ARF: Creatinine trending up now to 9.8 from 1.3 at OSH.  Muddy brown
   casts seen and ATN suspected from sepsis and hypotension.  FeNa 1.1
   with negative urine eos. Patient continues to be oliguric/anuric.  S/p
   HD yesterday with improvement in Cr.
   - Plan for HD again today
   - F/u Renal recs
   # Respiratory Failure: Patient intubated given AMS for airway
   protection.  LLL infiltrate concerning for pneumonia. Sputum growing
   coag+ staph. Likely also pleural effusion (he has a history of CAD, and
   in setting of volume challenge may have element of heart failure);
   initiated dialysis yesterday and able to lower PEEP but still 10L+ over
   LOS.
   - Afebrile w/ decreasing WBC on vanc/ctx; f/u sensitivities. If
   worsens, consider broadening abx to cover aspiration or HAP
   - Cont HD and pull off volume as tolerated
   - Wean PEEP/FiO2 as able with daily RSBI and SBT if appropriate;
   sedation changed to fentanyl/versed due to hypertriglyceridemia on
   propofol
   - Head of the bed elevated, H2 blocker while intubated, VAP bundle
   # Ileus:  patient passed stool on [**2165-4-26**], restarted on tube feeds
   yesterday
   - KUB ordered but  ileus less likely as able to tolerate tube feeds
   when restarted
   - PO Naloxone
   - Would try to avoid narcotics although on fentanyl/versed currently
   # DM: Patient likely to have elevated FS with infection.
   - Increased Insulin SS and baseline insulin with better control of FSBS
   last few checks
   # CAD s/p IMI: Ruled out for MI at OSH.
   - Continue ASA/Plavix. Unclear why patient is not on a BB or statin
   - Hold Ace/[**Last Name (un) 284**] in the setting of ARF
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2165-4-27**] 01:14 AM 20 mL/hour
   Glycemic Control:  ISS and baseline insulin
   Lines:
   Multi Lumen - [**2165-4-21**] 07:50 PM
   Arterial Line - [**2165-4-21**] 10:24 PM
   Dialysis Catheter - [**2165-4-26**] 08:20 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2165-04-28 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2165-4-27**] 08:33 PM
 PAN CULTURE - At [**2165-4-27**] 09:03 PM
   - ET tube advanced 2cm. Switched from AC to PS, PEEP weaned down from
   16 to 8
   - Per ID, would keep both vanc/ctx for now pending cx. MRSA+ screen;
   vanc with less optimal coverage of MSSA.
   - Pt spiked temp but VSS. Pancultured.
   - SBP elevated to 180s. Given extra dose hydralazine; consider starting
   po for longer-acting ctrl
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2165-4-25**] 03:59 PM
   Vancomycin - [**2165-4-27**] 12:07 PM
   Ceftriaxone - [**2165-4-28**] 03:44 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 100 mcg/hour
   Insulin - Regular - 5 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-28**] 12:30 AM
   Hydralazine - [**2165-4-28**] 03:34 AM
   Fentanyl - [**2165-4-28**] 03:36 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-28**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 38.2
C (100.7
   HR: 81 (74 - 109) bpm
   BP: 124/46(66) {123/46(66) - 196/71(109)} mmHg
   RR: 17 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 8 (7 - 13)mmHg
   Total In:
                                                                  1,947 mL
                                                                    579 mL
   PO:
   TF:
                                                                    685 mL
                                                                    311 mL
   IVF:
                                                                    902 mL
                                                                    237 mL
   Blood products:
   Total out:
                                                                  4,856 mL
                                                                     80 mL
   Urine:
                                                                    406 mL
                                                                     80 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -2,909 mL
                                                                    499 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 590 (468 - 650) mL
   PS : 8 cmH2O
   RR (Set): 26
   RR (Spontaneous): 18
   PEEP: 8 cmH2O
   FiO2: 50%
   PIP: 16 cmH2O
   Plateau: 24 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 96%
   ABG: 7.44/43/99.[**Numeric Identifier 8**]/28/4
   Ve: 12.6 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Respiratory / Chest: Symmetric but diminished BS throughout )
   Abdominal: Soft
   Extremities: Right: 1+, Left: WWP
   Skin:  Not assessed, L foot with bandage C/D/I
   Neurologic: PERRL, withdraws to pain of Right hip
   Labs / Radiology
   331 K/uL
   7.9 g/dL
   160 mg/dL
   6.7 mg/dL
   28 mEq/L
   3.7 mEq/L
   50 mg/dL
   104 mEq/L
   141 mEq/L
   23.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2165-4-25**]  09:01 PM
                             [**2165-4-26**]  03:00 AM
                             [**2165-4-26**]  03:18 AM
                             [**2165-4-26**]  07:00 PM
                             [**2165-4-27**]  04:29 AM
                             [**2165-4-27**]  04:49 AM
                             [**2165-4-27**]  02:33 PM
                             [**2165-4-27**]  05:08 PM
                             [**2165-4-28**]  01:59 AM
                             [**2165-4-28**]  02:12 AM
   WBC
   12.2
   11.9
   12.7
   Hct
   26.4
   25.1
   23.6
   Plt
   [**Telephone/Fax (3) 6489**]
   Cr
   9.8
   8.0
   6.7
   TCO2
   21
   22
   26
   26
   28
   29
   30
   Glucose
   158
   120
   160
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/19, Differential-Neuts:62.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:12.0 %, Eos:2.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.2 g/dL, LDH:245 IU/L, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
 MENINGITIS, BACTERIAL
 CONSTIPATION (OBSTIPATION, FOS)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPOTENSION (NOT SHOCK)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
   55 yo male with DM 2, HTN, CAD s/p IMI and DES to RCAx3 transferred
   from OSH for high-grade bacteremia, foot ulcer, AMS, and ARF with
   meningitis on LP.
   # ID:  Patient with high grade MSSA bacteremia and UTI; source thought
   to be diabetic foot ulcer given OSH report of MSSA wound culture and
   plain film here suspicious for osteo. Now also with meningitis, cx
   pending and staph coag+ sputum. TEE [**2165-4-25**] ruled out endocarditis. Has
   not been on levophed since [**4-24**]. Pt febrile last PM, but hemodynamically
   stable.
   - Goal MAP>60; levophed prn
   - Trend WBC and fever curve
   - F/u blood and CSF cx; because wbc lower than expected in CSF, may be
   treated meningitis in which case cx may be negative
   - Continue Ctx, vanc (dosed by level).
   - F/u podiatry and vascular surgery recs; for now they will defer
   amputation and await extubation of patient for surgery.
   # HTN: started yesterday during dialysis.  Currently spikes up to
   210
s.  Etiologies include pain, essential htn, fever related.  Given
   withdrawal to pain on exam, this is most likely etiology.
   - treat pain with fentanyl boluses
   - start metoprolol [**Hospital1 **]
   - Esmolol for quick on/off
   - renal will UF at next HD.
   # Neuro: No evidence of venous sinus thrombosis or other intracranial
   process on MRI/MRV. LP c/w bacterial meningitis.
   - Cont Ctx and vanc as above for now
   - Serial neuro exams
   - Pain control with fentanyl/midaz
   - Neuro signed off
   # ARF: Initiated HD per renal.  Muddy brown casts seen and ATN
   suspected from sepsis and hypotension.  FeNa 1.1 with negative urine
   eos. Patient continues to be oliguric/anuric.  S/p HD yesterday with
   improvement in Cr.
   - No HD today
   - F/u Renal recs
   # Respiratory Failure: Patient intubated given AMS for airway
   protection.  LLL infiltrate concerning for pneumonia. Sputum growing
   MRSA. Likely also pleural effusion (he has a history of CAD, and in
   setting of volume challenge may have element of heart failure);
   initiated dialysis and able to lower PEEP but still 10L+ over LOS.
   - Continue vanc/ctx. If worsens, consider broadening abx to cover
   aspiration or HAP
   - Cont HD and pull off volume as tolerated
   - Wean PEEP/FiO2 as able with daily RSBI and SBT if appropriate;
   sedation changed to fentanyl/versed due to hypertriglyceridemia on
   propofol
   - Head of the bed elevated, H2 blocker while intubated, VAP bundle
   # Ileus:  patient passed stool, restarted on tube feeds
   - resolved with large BMs as of [**2165-4-26**]
   - monitor for constipation with pain control
   # DM: Patient likely to have elevated FS with infection.
   - Cte insulin gtt
   # CAD s/p IMI: Ruled out for MI at OSH.
   - Continue ASA/Plavix. Unclear why patient is not on a BB or statin
   - Hold Ace/[**Last Name (un) 284**] in the setting of ARF
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2165-4-28**] 02:36 AM 47 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-21**] 07:50 PM
   Arterial Line - [**2165-4-21**] 10:24 PM
   Dialysis Catheter - [**2165-4-26**] 08:20 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2165-04-28 12:25:00 Physician Attending Progress Note
Chief Complaint: Sepsis
   Renal Failure
   Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PAN CULTURE - At [**2165-4-27**] 09:03 PM
   -Patient with intermittent hypertension noted
   -PSV wean to [**3-26**] with 50% FIO2
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2165-4-25**] 03:59 PM
   Vancomycin - [**2165-4-27**] 12:07 PM
   Ceftriaxone - [**2165-4-28**] 03:44 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl (Concentrate) - 125 mcg/hour
   Insulin - Regular - 10 units/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-28**] 07:34 AM
   Midazolam (Versed) - [**2165-4-28**] 10:00 AM
   Hydralazine - [**2165-4-28**] 11:00 AM
   Fentanyl - [**2165-4-28**] 12:00 PM
   Metoprolol - [**2165-4-28**] 12:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2165-4-28**] 12:15 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100
   HR: 110 (79 - 110) bpm
   BP: 190/70(105) {123/46(66) - 190/70(105)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
   CVP: 8 (7 - 12)mmHg
   Total In:
                                                                  1,947 mL
                                                                  1,159 mL
   PO:
   TF:
                                                                    685 mL
                                                                    573 mL
   IVF:
                                                                    902 mL
                                                                    406 mL
   Blood products:
   Total out:
                                                                  4,856 mL
                                                                    195 mL
   Urine:
                                                                    406 mL
                                                                    195 mL
   NG:
   Stool:
                                                                    650 mL
   Drains:
   Balance:
                                                                 -2,909 mL
                                                                    964 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 800 (468 - 800) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 32
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.46/38/69/28/2
   Ve: 16.1 L/min
   PaO2 / FiO2: 138
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.9 g/dL
   331 K/uL
   160 mg/dL
   6.7 mg/dL
   28 mEq/L
   3.7 mEq/L
   50 mg/dL
   104 mEq/L
   141 mEq/L
   23.6 %
   12.7 K/uL
        [image002.jpg]
                             [**2165-4-26**]  03:00 AM
                             [**2165-4-26**]  03:18 AM
                             [**2165-4-26**]  07:00 PM
                             [**2165-4-27**]  04:29 AM
                             [**2165-4-27**]  04:49 AM
                             [**2165-4-27**]  02:33 PM
                             [**2165-4-27**]  05:08 PM
                             [**2165-4-28**]  01:59 AM
                             [**2165-4-28**]  02:12 AM
                             [**2165-4-28**]  08:08 AM
   WBC
   12.2
   11.9
   12.7
   Hct
   26.4
   25.1
   23.6
   Plt
   [**Telephone/Fax (3) 6489**]
   Cr
   9.8
   8.0
   6.7
   TCO2
   22
   26
   26
   28
   29
   30
   28
   Glucose
   158
   120
   160
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/19, Differential-Neuts:62.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:12.0 %, Eos:2.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.2 g/dL, LDH:245 IU/L, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:4.3
   mg/dL
   Assessment and Plan
   55 yo male with admission with MSSA bacteremia and although he had
   significant elevation in CSF WBC count has not had culture positivity
   from CSF.  He, from a respiratory standpoint, has been able to tolerate
   PSV wean but is complicated by some hypertension at this time.
   1) MENINGITIS, BACTERIAL
and significant MSSA bactermia
   -Vanco/CTX to continue
   -Will follow up culture results in surveillance
   2)Respiratory Failure-
   -Versed/Fentanyl used
will need to continue to control pain as possible
   trigger for hypertension and tachycardia
   -PSV at 5/5 this morning
   -Main barrier to extubation is patient mental status
tolerance of PSV
   is reasonable
   -Will look to improve alertness as move to extubation
   3)Renal Failure-
   -Dialysis to continue
   4)Hypertension
   -Hydralazine
   -Will move to IV continuous infusion with esmolol if needed
   -Continue to control pain with topical/local [**Doctor Last Name 23**] where possible given
   concern for depression of alertness
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2165-4-28**] 02:36 AM 47 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-21**] 07:50 PM
   Arterial Line - [**2165-4-21**] 10:24 PM
   Dialysis Catheter - [**2165-4-26**] 08:20 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2165-04-29 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2165-4-28**] 01:16 PM
   from aline
   [**2165-4-28**]
   - Patient hypertensive thought [**12-24**] to pain.  His sedation was increased
   some to help releive pain.
   - Esmolol was started to control hypertension in the interim.
   - Renal may ultrafiltrate him on [**2165-4-29**] if HTN continues to be a
   problem.  Recommend dialysis on Tues.
   - Continued on Vanc/CTX.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-27**] 12:07 PM
   Ceftriaxone - [**2165-4-29**] 03:58 AM
   Infusions:
   Insulin - Regular - 5 units/hour
   Fentanyl (Concentrate) - 60 mcg/hour
   Esmolol - 75 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2165-4-28**] 10:00 AM
   Hydralazine - [**2165-4-28**] 11:00 AM
   Metoprolol - [**2165-4-28**] 12:03 PM
   Heparin Sodium (Prophylaxis) - [**2165-4-29**] 12:55 AM
   Fentanyl - [**2165-4-29**] 03:48 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-29**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.8
C (100
   HR: 82 (69 - 121) bpm
   BP: 177/62(94) {118/46(65) - 201/80(116)} mmHg
   RR: 18 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,453 mL
                                                                    777 mL
   PO:
             TF:
                                                                  1,128 mL
                                                                    326 mL
   IVF:
                                                                    965 mL
                                                                    421 mL
   Blood products:
   Total out:
                                                                    424 mL
                                                                    165 mL
   Urine:
                                                                    424 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,029 mL
                                                                    612 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 614 (614 - 800) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 23
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.42/40/107/24/0
   Ve: 11.3 L/min
   PaO2 / FiO2: 214
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Respiratory / Chest: Symmetric but diminished BS throughout )
   Abdominal: Soft
   Extremities: Right: 1+, Left: WWP
   Skin:  Not assessed, L foot with bandage C/D/I
   Neurologic: PERRL, withdraws to pain of Right hip
   Labs / Radiology
   365 K/uL
   7.5 g/dL
   90 mg/dL
   7.6 mg/dL
   24 mEq/L
   4.0 mEq/L
   58 mg/dL
   105 mEq/L
   140 mEq/L
   22.9 %
   12.6 K/uL
        [image002.jpg]
                             [**2165-4-27**]  04:29 AM
                             [**2165-4-27**]  04:49 AM
                             [**2165-4-27**]  02:33 PM
                             [**2165-4-27**]  05:08 PM
                             [**2165-4-28**]  01:59 AM
                             [**2165-4-28**]  02:12 AM
                             [**2165-4-28**]  08:08 AM
                             [**2165-4-28**]  08:07 PM
                             [**2165-4-29**]  01:57 AM
                             [**2165-4-29**]  02:12 AM
   WBC
   11.9
   12.7
   12.6
   Hct
   25.1
   23.6
   22.9
   Plt
   348
   331
   365
   Cr
   8.0
   6.7
   7.6
   TCO2
   26
   28
   29
   30
   28
   29
   27
   Glucose
   120
   160
   90
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/19, Differential-Neuts:62.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:12.0 %, Eos:2.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.2 g/dL, LDH:245 IU/L, Ca++:8.3 mg/dL, Mg++:2.6 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
 MENINGITIS, BACTERIAL
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
   55 yo male with DM 2, HTN, CAD s/p IMI and DES to RCAx3 transferred
   from OSH for high-grade bacteremia, foot ulcer, AMS, and ARF with
   meningitis on LP.
   # ID:  Patient with high grade MSSA bacteremia and UTI; source thought
   to be diabetic foot ulcer given OSH report of MSSA wound culture and
   plain film here suspicious for osteo. Now also with meningitis, cx
   pending and staph coag+ sputum. TEE [**2165-4-25**] ruled out endocarditis.
   Patient off pressors and hypertensive. Pt febrile last PM, but
   hemodynamically stable.
   - Trend WBC and fever curve
   - F/u blood and CSF cx; because wbc lower than expected in CSF, may be
   treated meningitis in which case cx may be negative
   - Continue Ctx, vanc (dosed by level).
   - F/u podiatry and vascular surgery recs; for now they will defer
   amputation and await extubation of patient for surgery.
   # HTN: started yesterday during dialysis.  Currently spikes up to
   210
s.  Etiologies include pain, essential htn, fever related.  Given
   withdrawal to pain on exam, this is most likely etiology.
   - treat pain with fentanyl boluses
   - start metoprolol [**Hospital1 **]
   - Esmolol for quick on/off
   - renal will UF at next HD.
   # Neuro: No evidence of venous sinus thrombosis or other intracranial
   process on MRI/MRV. LP c/w bacterial meningitis.
   - Cont Ctx and vanc as above for now
   - Serial neuro exams
   - Pain control with fentanyl/midaz
   - Neuro signed off
   # ARF: Initiated HD per renal.  Muddy brown casts seen and ATN
   suspected from sepsis and hypotension.  FeNa 1.1 with negative urine
   eos. Patient continues to be oliguric/anuric.  S/p HD yesterday with
   improvement in Cr.
   - No HD today
   - F/u Renal recs
   # Respiratory Failure: Patient intubated given AMS for airway
   protection.  LLL infiltrate concerning for pneumonia. Sputum growing
   MRSA. Likely also pleural effusion (he has a history of CAD, and in
   setting of volume challenge may have element of heart failure);
   initiated dialysis and able to lower PEEP but still 10L+ over LOS.
   - Continue vanc/ctx. If worsens, consider broadening abx to cover
   aspiration or HAP
   - Cont HD and pull off volume as tolerated
   - Wean PEEP/FiO2 as able with daily RSBI and SBT if appropriate;
   sedation changed to fentanyl/versed due to hypertriglyceridemia on
   propofol
   - Head of the bed elevated, H2 blocker while intubated, VAP bundle
   # Ileus:  patient passed stool, restarted on tube feeds
   - resolved with large BMs as of [**2165-4-26**]
   - monitor for constipation with pain control
   # DM: Patient likely to have elevated FS with infection.
   - Cte insulin gtt
   # CAD s/p IMI: Ruled out for MI at OSH.
   - Continue ASA/Plavix. Unclear why patient is not on a BB or statin
   - Hold Ace/[**Last Name (un) 284**] in the setting of ARF
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2165-4-28**] 10:20 PM 47 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-21**] 07:50 PM
   Arterial Line - [**2165-4-21**] 10:24 PM
   Dialysis Catheter - [**2165-4-26**] 08:20 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2165-04-30 07:19:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Head 'twitching' without movement below the neck; discussed with
   neuro, CT head ordered (PFI: Evaluation limited by motion, but no acute
   intracranial pathology)
   - Sedation switched to dexmedetomidine, later stopped because not
   needed; stopped fentanyl
   - Changed from insulin gtt to NPH [**Hospital1 **]; uptitrated Humalog sliding scale
   - Hypertensive with SBP to 180s in evening. Gave hydralazine 10mg IV.
   Also increased sedation as appeared uncomfortable. Uptitrated
   metoprolol 50mg PO TID. Weaned off of esmolol at 2am. Restarted on home
   fentanyl patch.
   - NGT placed, but unable to see it on Abd or chest X-ray.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-27**] 12:07 PM
   Ceftriaxone - [**2165-4-29**] 05:24 PM
   Infusions:
   Fentanyl (Concentrate) - 40 mcg/hour
   Other ICU medications:
   Hydralazine - [**2165-4-29**] 09:25 PM
   Famotidine (Pepcid) - [**2165-4-30**] 12:40 AM
   Heparin Sodium (Prophylaxis) - [**2165-4-30**] 12:40 AM
   Fentanyl - [**2165-4-30**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-30**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.8
C (100
   HR: 78 (71 - 90) bpm
   BP: 119/46(65) {119/46(65) - 183/73(104)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  2,927 mL
                                                                    480 mL
   PO:
             TF:
                                                                    922 mL
                                                                    157 mL
   IVF:
                                                                  1,446 mL
                                                                    223 mL
   Blood products:
   Total out:
                                                                  3,580 mL
                                                                    300 mL
   Urine:
                                                                    580 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -653 mL
                                                                    180 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 616 (574 - 793) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.45/36/72/23/1
   Ve: 12.9 L/min
   PaO2 / FiO2: 144
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, head twitching
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Respiratory / Chest: Symmetric but diminished BS throughout )
   Abdominal: Soft
   Extremities: Right: 1+, Left: WWP
   Skin:  L foot with bandage C/D/I
   Neurologic: PERRL, awake but not responding to commands.
   Labs / Radiology
   395 K/uL
   7.7 g/dL
   197 mg/dL
   8.6 mg/dL
   23 mEq/L
   4.4 mEq/L
   74 mg/dL
   100 mEq/L
   135 mEq/L
   23.4 %
   15.8 K/uL
        [image002.jpg]
                             [**2165-4-27**]  02:33 PM
                             [**2165-4-27**]  05:08 PM
                             [**2165-4-28**]  01:59 AM
                             [**2165-4-28**]  02:12 AM
                             [**2165-4-28**]  08:08 AM
                             [**2165-4-28**]  08:07 PM
                             [**2165-4-29**]  01:57 AM
                             [**2165-4-29**]  02:12 AM
                             [**2165-4-30**]  03:28 AM
                             [**2165-4-30**]  04:01 AM
   WBC
   12.7
   12.6
   15.8
   Hct
   23.6
   22.9
   23.4
   Plt
   [**Telephone/Fax (3) 6526**]
   Cr
   6.7
   7.6
   8.6
   TCO2
   28
   29
   30
   28
   29
   27
   26
   Glucose
   160
   90
   197
   Other labs: PT / PTT / INR:15.5/31.7/1.4, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/19, Differential-Neuts:62.0 %, Band:2.0 %,
   Lymph:18.0 %, Mono:12.0 %, Eos:2.0 %, Lactic Acid:0.6 mmol/L,
   Albumin:2.2 g/dL, LDH:245 IU/L, Ca++:8.8 mg/dL, Mg++:2.7 mg/dL, PO4:5.8
   mg/dL
   CT head (prelim): Evaluation limited by motion, but no acute
   intracranial pathology
   Assessment and Plan
   55 yo male with DM 2, HTN, CAD s/p IMI and DES to RCAx3 transferred
   from OSH for high-grade bacteremia, foot ulcer, AMS, and ARF with
   meningitis on LP.
   # Head twitching: No evidence of venous sinus thrombosis or other
   intracranial process on MRI/MRV on [**2165-4-25**]. LP c/w bacterial meningitis.
   New head twitching yesterday with no evidence of change on CT head.
   Initial concern for seizures but neuro stated this was unlikely.  Now
   concern for cord issues.
   - MRI of C- ant T-Spine
   - transition to propafol for studies
   # Difficulties from NGT placement: NG tube placed for feeding and meds
   in hopes he can extubated despite continued AMS. Unable to see NGT on
   CXR or Abd X-ray, but appears in place by auscultation.
   - infuse 10 cc of bearcat and redo CXR/KUB for placement.
   # ID:  Patient with high grade MSSA bacteremia and UTI; source thought
   to be diabetic foot ulcer given OSH report of MSSA wound culture and
   plain film here suspicious for osteo. Now also with meningitis with neg
   cx to date; as WBC lower than expected in CSF, may be treated
   meningitis in which case cx may be negative. TEE [**2165-4-25**] ruled out
   endocarditis. Has been febrile with increased WBC but hemodynamically
   stable; off pressors and hypertensive.
   - Trend WBC and fever curve
   - F/u blood and CSF cx; check C diff
   - Continue vanc (dosed by level) and CTX; Plan will be for 4 weeks of
   tx
   - Would do best with IR guided PICC as well
   .
   # HTN: Started [**2165-4-27**] during dialysis. Etiologies include pain,
   essential htn, fever related.  Better ctrl with pain ctrl and on
   standing beta blocker; now off gtt.
   - Off fentanyl gtt and on home fentanyl patch
   - will give propafol for sedation and hypertension
   - Cont metoprolol 50mg po tid; uptitrate prn
   - Continue UF as tolerated.
   # Respiratory Failure: Patient intubated given AMS for airway
   protection.  LLL infiltrate concerning for pneumonia. Sputum growing
   MRSA. Patient vent requirements are minimal despite altered mental
   status.
   - Continue Vanc/ctx. If worsens, consider broadening abx to cover
   aspiration or HAP
   - Cont HD and pull off volume as tolerated
   - Place NG tube for meds and nutrition
   - Plan to extubate as soon as studies are done, likely tomorrow.
   - okay to re-intubate
   # ARF: Initiated HD per renal.  Muddy brown casts seen and ATN
   suspected from sepsis and hypotension.
   - F/u Renal recs
   - HD today.
   - will likely need IR guided tunneled cath with PICC.
   # Ileus:  patient passed stool, restarted on tube feeds
   - resolved with large BMs as of [**2165-4-26**]
   - monitor for constipation with pain control
   # DM: Patient likely to have elevated FS with infection; now off
   insulin gtt
   - Cont NPH [**Hospital1 **] with ISS
   # L foot ulcer
   - F/u podiatry and vascular surgery recs; for now they will defer
   amputation and await extubation of patient for surgery.
   # CAD s/p IMI: Ruled out for MI at OSH.
   - Continue ASA/Plavix.
   ICU Care
   Nutrition: Confirm NGT placement then resume tube feeds if AMS limits
   ability to take po
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-21**] 07:50 PM
   Arterial Line - [**2165-4-21**] 10:24 PM
   Dialysis Catheter - [**2165-4-26**] 08:20 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate) ; once extubated, okay to
   re-intubate per HCP
   Disposition: ICU

2165-05-01 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2165-5-1**] 04:22 AM
 EKG - At [**2165-5-1**] 05:01 AM
   done [**12-24**] changes. EKG with known LBBB.
   [**4-30**]
   - NGT placed and ok to use after imaging with bari-cat
   - Double-lumen PICC placed at bedside
   - Ordered for IR tunneled HD line
   - BP difficult to control; given hydral 10mg x 1; increased sedation.
   - Sedation changed back to propofol for procedures and BP control
   - Stool sent for C. diff given increased WBC
   - MRI C/T spine ordered for evaluation of head twitching (?cord issue)
   and b/l UE weakness; unable to fit into machine so CT spine ordered
   instead. Wet read: Vertebra anatomically aligned. Question of
   hypodensity at the level of T1-T2 measuring 15x9mm which may represent
   epidural hematoma or abscess although appearance may be related to
   artifact from motion. Spine (Neurosurg) c/s'd. Recommended CT myelogram
   for further evaluation; no surgery at this time.
   - ID: No need for CTX. Consider R knee arthrocentesis, R hip and knee
   film for ?capsular swelling to r/o septic arthritis. Also L foot MRI to
   evaluate for osteo. Check ESR, CRP. ?PNA - rec bronch v. mini-BAL for
   cx. If decomp, consider meropenem. If CT spine neg, repeat LP after off
   CTX x 2-3 days.
   - Propofol weaned after imaging. Pt created leak in tubing after biting
   down requiring extubation, which he tolerated well.
   - BP increased substantially to 200 off propofol; uptitrated metop to
   75mg tid, added hydral 25mg q6h, and gave haldol 1mg IV x 1 for
   delirium
   - Increased NPH given FSG in 200s
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2165-4-29**] 05:24 PM
   Vancomycin - [**2165-4-30**] 01:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-4-30**] 04:30 PM
   Hydralazine - [**2165-5-1**] 12:20 AM
   Haloperidol (Haldol) - [**2165-5-1**] 01:10 AM
   Fentanyl - [**2165-5-1**] 05:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-5-1**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.6
C (99.7
   HR: 98 (71 - 101) bpm
   BP: 179/71(101) {110/49(65) - 211/86(127)} mmHg
   RR: 19 (14 - 23) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,500 mL
                                                                    518 mL
   PO:
             TF:
                                                                    213 mL
                                                                    245 mL
   IVF:
                                                                  1,077 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  4,147 mL
                                                                    235 mL
   Urine:
                                                                    647 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,647 mL
                                                                    283 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 576 (513 - 731) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 70%
   RSBI: 59
   PIP: 11 cmH2O
   SpO2: 94%
   ABG: ///23/
   Ve: 13 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, head twitching
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Respiratory / Chest: Symmetric but diminished BS throughout )
   Abdominal: Soft
   Extremities: Right: 1+, Left: WWP
   Skin:  L foot with bandage C/D/I
   Neurologic: PERRL, awake but not responding to commands.
   Labs / Radiology
   367 K/uL
   7.2 g/dL
   119 mg/dL
   6.4 mg/dL
   23 mEq/L
   4.1 mEq/L
   48 mg/dL
   104 mEq/L
   139 mEq/L
   21.7 %
   13.6 K/uL
        [image002.jpg]
                             [**2165-4-27**]  05:08 PM
                             [**2165-4-28**]  01:59 AM
                             [**2165-4-28**]  02:12 AM
                             [**2165-4-28**]  08:08 AM
                             [**2165-4-28**]  08:07 PM
                             [**2165-4-29**]  01:57 AM
                             [**2165-4-29**]  02:12 AM
                             [**2165-4-30**]  03:28 AM
                             [**2165-4-30**]  04:01 AM
                             [**2165-5-1**]  04:45 AM
   WBC
   12.7
   12.6
   15.8
   13.6
   Hct
   23.6
   22.9
   23.4
   21.7
   Plt
   [**Telephone/Fax (3) 6544**]67
   Cr
   6.7
   7.6
   8.6
   6.4
   TCO2
   29
   30
   28
   29
   27
   26
   Glucose
   160
   90
   197
   119
   Other labs: PT / PTT / INR:14.6/26.8/1.3, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/19, Differential-Neuts:91.0 %, Band:0.0 %,
   Lymph:1.0 %, Mono:7.0 %, Eos:1.0 %, Lactic Acid:0.6 mmol/L, Albumin:2.2
   g/dL, LDH:245 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   C diff
 Negative
Sputum Cx - [**2165-4-27**] 10:46 pm SPUTUM      Source: Endotracheal.
   GRAM STAIN (Final [**2165-4-28**]):
      >25 PMNs and <10 epithelial cells/100X field.
      3+  (5-10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
   RESPIRATORY CULTURE (Preliminary):
      SPARSE GROWTH OROPHARYNGEAL FLORA.
      STAPH AUREUS COAG +.    MODERATE GROWTH.
      STAPH AUREUS COAG +.    SPARSE GROWTH.  SECOND MORPHOLOGY.
   CT C-, T-, and L- Spine: (Appears that C-spine was without contrast)
   1. No epidural or subdural abscess collection is noted within the
   thoracic
   spine.
   2. No fracture or malalignment is detected.
   3. Small bilateral pleural effusion and moderate bibasilar
   consolidative
   changes of the lungs. The differential diagnosis includes atelectasis
   and
   aspiration.
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MENINGITIS, BACTERIAL
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
   55 yo male with DM 2, HTN, CAD s/p IMI and DES to RCAx3 transferred
   from OSH for high-grade bacteremia, foot ulcer, AMS, and ARF with
   meningitis on LP.
   # Head twitching: No evidence of venous sinus thrombosis or other
   intracranial process on MRI/MRV on [**2165-4-25**]. LP c/w bacterial meningitis.
   New head twitching yesterday with no evidence of change on CT head.
   Initial concern for seizures but neuro stated this was unlikely.  Now
   concern for cord issues.  Reassuring that he is now moving all limbs
   although still delirious.
   - f/u final read of CT of C- ant T-Spine
   - f/u Neurosurgery recs
   # ID:  Patient with high grade MSSA bacteremia, UTI, and CSF showed
   meningitis with neg cx (likely treated).; source thought to be diabetic
   foot ulcer given OSH report of MSSA wound culture and plain film here
   suspicious for osteo. TEE [**2165-4-25**] ruled out endocarditis. Has been
   febrile with increased WBC but hemodynamically stable; off pressors and
   hypertensive.
   - Trend WBC and fever curve
   - Continue vanc (dosed by level)
   - CTX d/c
ed on [**2165-4-30**] per ID recs
   - PICC Line in place for long term Abx
   - ESR and CRP very high and will monitor with Abx treatment
   .
   # HTN: Started [**2165-4-27**] during dialysis. Etiologies include pain,
   essential htn, fever related.  Better ctrl with pain ctrl and on
   standing beta blocker.
   - Continue home fentanyl patch
   - Increase metoprolol 75mg po qid; uptitrate prn
   - Continue Hydralizine
   - Continue UF as tolerated.
   # Respiratory Failure: Patient intubated given AMS for airway
   protection.  LLL infiltrate concerning for pneumonia. Sputum growing
   MRSA. Patient vent requirements are minimal despite altered mental
   status.
   - Continue Vanc. If worsens, consider broadening abx to cover
   aspiration or HAP
   - Extubated [**2165-4-30**]  after he bit through cuff tubing and could not keep
   ET tube in place.
   - okay to re-intubate
   # ARF: Initiated HD per renal.  Muddy brown casts seen and ATN
   suspected from sepsis and hypotension.
   - F/u Renal recs
   - HD per renal team.
   - will need IR guided tunneled cath ordered.
   # Ileus:  patient passed stool, restarted on tube feeds
   - resolved with large BMs as of [**2165-4-26**]
   - monitor for constipation with pain control
   # DM: Patient likely to have elevated FS with infection; now off
   insulin gtt
   - Cont NPH [**Hospital1 **] with ISS
   # L foot ulcer
   - ESR and CRP very high and will monitor with Abx treatment
   - F/u podiatry and vascular surgery recs; for now they will defer
   amputation and await extubation of patient for surgery.
   # CAD s/p IMI: Ruled out for MI at OSH.
   - Continue ASA/Plavix.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2165-5-1**] 05:59 AM 47 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-21**] 07:50 PM
   Arterial Line - [**2165-4-21**] 10:24 PM
   Dialysis Catheter - [**2165-4-26**] 08:20 AM
   20 Gauge - [**2165-5-1**] 04:21 AM
   PICC Line - [**2165-5-1**] 04:22 AM
   Prophylaxis:
   DVT: Heparin SQ
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR
   Disposition: ICU

2165-05-02 06:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2165-5-1**] 09:30 AM
 BLOOD CULTURED - At [**2165-5-1**] 04:10 PM
   from PICC line
 URINE CULTURE - At [**2165-5-1**] 06:15 PM
 ARTERIAL LINE - STOP [**2165-5-1**] 10:11 PM
 EKG - At [**2165-5-2**] 01:06 AM
 FEVER - 101.4
F - [**2165-5-1**] 04:00 PM
   [**2165-5-1**]
   - Spiked to 101.4, but ID stated this may be expected and did not want
   to broaden coverage since hemodynamically stable and WBC trend down.
   Sputum cx ordered.
   - IR tunnelled HD line scheduled for tomorrow
   - Renal will dialyze [**2165-5-2**]
   - Neuro surge recommended CT myelogram or MRI to better define cord
   lesion on CT.
   - CT myelogram ordered, but conversation with Dr. [**Last Name (STitle) 937**] indicated that
   he can see around the cord and feels CT myelogram would be negative.
   - Cannot do MRI unless he could go to outside facility with Open MRI.
   - Remained delirious throughout night.
   - Remained hypertensive, but cuff pressures of 160s/60s. A-line d/c'd.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2165-4-29**] 05:24 PM
   Vancomycin - [**2165-4-30**] 01:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-5-2**] 12:16 AM
   Fentanyl - [**2165-5-2**] 12:16 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-5-2**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.4
   Tcurrent: 37.5
C (99.5
   HR: 85 (78 - 108) bpm
   BP: 155/65(85) {126/52(74) - 159/65(85)} mmHg
   RR: 26 (17 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  1,679 mL
                                                                    358 mL
   PO:
             TF:
                                                                    980 mL
                                                                    177 mL
   IVF:
                                                                    309 mL
                                                                      1 mL
   Blood products:
   Total out:
                                                                    735 mL
                                                                    195 mL
   Urine:
                                                                    735 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    944 mL
                                                                    163 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 95%
   ABG: 7.46/36/281/24/2
   PaO2 / FiO2: 703
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Shovel mask, head twitching
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Respiratory / Chest: Symmetric but diminished BS throughout
   Abdominal: Soft
   Extremities: Right: 1+, Left: WWP
   Skin:  L foot with bandage C/D/I
   Neurologic: PERRL, awake, opens eyes to voice, but not responding to
   commands, moving L>R.
   Labs / Radiology
   372 K/uL
   6.5 g/dL
   165 mg/dL
   7.5 mg/dL
   24 mEq/L
   3.9 mEq/L
   57 mg/dL
   105 mEq/L
   140 mEq/L
   19.7 %
   12.8 K/uL
        [image002.jpg]
                             [**2165-4-28**]  02:12 AM
                             [**2165-4-28**]  08:08 AM
                             [**2165-4-28**]  08:07 PM
                             [**2165-4-29**]  01:57 AM
                             [**2165-4-29**]  02:12 AM
                             [**2165-4-30**]  03:28 AM
                             [**2165-4-30**]  04:01 AM
                             [**2165-5-1**]  04:45 AM
                             [**2165-5-1**]  04:20 PM
                             [**2165-5-2**]  12:52 AM
   WBC
   12.6
   15.8
   13.6
   12.8
   Hct
   22.9
   23.4
   21.7
   19.7
   Plt
   365
   395
   367
   372
   Cr
   7.6
   8.6
   6.4
   7.5
   TCO2
   30
   28
   29
   27
   26
   26
   Glucose
   90
   197
   119
   165
   Other labs: PT / PTT / INR:14.6/26.8/1.3, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/19, Differential-Neuts:79.4 %, Band:0.0 %,
   Lymph:13.5 %, Mono:5.0 %, Eos:1.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.2 g/dL, LDH:245 IU/L, Ca++:9.0 mg/dL, Mg++:2.4 mg/dL, PO4:4.5
   mg/dL
   Assessment and Plan
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 MENINGITIS, BACTERIAL
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERTENSION, BENIGN
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 IMPAIRED SKIN INTEGRITY
 HYPERGLYCEMIA
   55 yo male with DM 2, HTN, CAD s/p IMI and DES to RCAx3 transferred
   from OSH for high-grade bacteremia with MSSA, foot ulcer, AMS, and ARF
   with meningitis on LP.
   # AMS: Etiologies include meningitis, ICU delirium, hypoxia, structural
   lesion (although neg MRI recently), sedation effect, benzo withdrawal.
   Continues to be altered this AM.
   - consider ativan if tachycardic/diaphoretic
   - Cte to allow sedation to wash out
   - Haldol PRN for agitation if necessary
   # Head twitching: No evidence of venous sinus thrombosis or other
   intracranial process on MRI/MRV on [**2165-4-25**]. LP c/w bacterial meningitis.
   New head twitching yesterday with no evidence of change on CT head.
   Initial concern for seizures but neuro stated this was unlikely.  Now
   concern for cord issues.
   - f/u Neurosurgery recs: CT myelogram but per Dr. [**Last Name (STitle) 937**] (radiologist
   who performs them) it is not indicated and he should go for MRI.
   - Patient would need open MRI for C-, T-spine which may involve
   transfer to outside facility.
   - Allow MS to clear prior to decision about MRI.
   # ID:  Patient with high grade MSSA bacteremia, UTI, and CSF showed
   meningitis with neg cx (likely treated).; source thought to be diabetic
   foot ulcer given OSH report of MSSA wound culture and plain film here
   suspicious for osteo. TEE [**2165-4-25**] ruled out endocarditis. Has been
   febrile with increased WBC but hemodynamically stable; off pressors and
   hypertensive.  Pt spiked, although fever curve not impressive for new
   infectious process.
   - Trend WBC and fever curve.
   - Continue vanc (dosed by level)
   - [**Month (only) 11**] add Zosyn for potential pulm infection if he decompensates.
   - PICC Line in place for long term Abx
   - ESR and CRP very high and will monitor with Abx treatment
   - F/U cultures
   # HTN: Started [**2165-4-27**] during dialysis. Etiologies include pain,
   essential htn, fever related.  Better ctrl with pain ctrl and on
   standing beta blocker.  Cuff systolic pressure 20 points lower that
   A-line and diastolic the same
 a-line d/c
   - Continue home fentanyl patch
   - Continue metoprolol 75mg po qid
   - Continue Hydralizine, but try to wean as pressure tolerates
   - Continue UF as tolerated for volume
   - Contiue losartan and up-titrate as needed.
   # Respiratory Failure: now extubated.  ABG showed adequate oxygenation
   post-extubation.
   - Continue Vanc. If worsens, consider broadening abx to cover
   aspiration or HAP
   - okay to re-intubate per family
   # ARF: Initiated HD per renal.  Muddy brown casts seen and ATN
   suspected from sepsis and hypotension.
   - F/u Renal recs
   - HD per renal team.
   - will need IR guided tunneled cath -> possibly today.
   # L foot ulcer
   - ESR and CRP very high and will monitor with Abx treatment
   - Podiatry and vascular surgery stated they will defer amputation and
   await stabilization/abx treatment of patient prior to surgery.
   ICU Care
   Nutrition: Tubefeeds.
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2165-4-26**] 08:20 AM
   20 Gauge - [**2165-5-1**] 04:21 AM
   PICC Line - [**2165-5-1**] 04:22 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2165-05-03 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Transfused 2 units PRBC with repeat Hct 23.9 at midnight and stable
   this AM
   - Per ID recs, changed Foley and resent urine cultures as may have been
   contaminant so did not start cefepime.
   - Also per ID got renal u/s showing no abscess and re-cultured blood
   and sputum
   - HD catheter was placed and fem HD line was pulled and cultured
   - Haldol 1mg X 1 given for delirium/agitation at midnight
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-30**] 01:00 PM
   Cefipime - [**2165-5-2**] 10:45 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2165-5-2**] 08:00 PM
   Famotidine (Pepcid) - [**2165-5-3**] 12:25 AM
   Heparin Sodium (Prophylaxis) - [**2165-5-3**] 12:25 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-5-3**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.6
   HR: 85 (70 - 93) bpm
   BP: 149/60(82) {133/46(65) - 170/71(88)} mmHg
   RR: 19 (12 - 26) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,650 mL
                                                                    358 mL
   PO:
                  TF:
                                                                    489 mL
                                                                    308 mL
   IVF:
                                                                     51 mL
   Blood products:
                                                                    750 mL
   Total out:
                                                                    715 mL
                                                                     60 mL
   Urine:
                                                                    715 mL
                                                                     60 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    935 mL
                                                                    298 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   SpO2: 90%
   ABG: ////
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Shovel mask, head twitching
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Respiratory / Chest: Symmetric but diminished BS throughout
   Abdominal: Soft
   Extremities: Right: 1+, Left: WWP
   Skin:  L foot with bandage C/D/I
   Neurologic: PERRL, awake, tracks to voice but not responding to
   commands, moving L>R.
   Labs / Radiology
   360 K/uL
   6.5 g/dL
   206 mg/dL
   4.7 mg/dL
   25 mEq/L
   3.8 mEq/L
   37 mg/dL
   104 mEq/L
   139 mEq/L
   23.6 %
   11.7 K/uL
        [image002.jpg]
                             [**2165-4-28**]  08:08 AM
                             [**2165-4-28**]  08:07 PM
                             [**2165-4-29**]  01:57 AM
                             [**2165-4-29**]  02:12 AM
                             [**2165-4-30**]  03:28 AM
                             [**2165-4-30**]  04:01 AM
                             [**2165-5-1**]  04:45 AM
                             [**2165-5-1**]  04:20 PM
                             [**2165-5-2**]  12:52 AM
                             [**2165-5-2**]  11:13 PM
   WBC
   12.6
   15.8
   13.6
   12.8
   Hct
   22.9
   23.4
   21.7
   19.7
   23.9
   Plt
   365
   395
   367
   372
   Cr
   7.6
   8.6
   6.4
   7.5
   TCO2
   28
   29
   27
   26
   26
   Glucose
   90
   197
   119
   165
   Other labs: PT / PTT / INR:14.2/25.3/1.2, 1.6 %, Lactic Acid:0.9
   mmol/L, Albumin:2.2 g/dL, LDH:245 IU/L, Ca++:8.8 mg/dL, Mg++:2.3 mg/dL,
   PO4:3.5 mg/dL, Vanco 14.3
   Assessment and Plan
   55 yo male with DM 2, HTN, CAD s/p IMI and DES to RCAx3 transferred
   from OSH for high-grade bacteremia with MSSA, foot ulcer, AMS, and ARF
   with meningitis on LP.
   # AMS: Etiologies include meningitis, ICU delirium, hypoxia, sedation
   effect, benzo withdrawal. Less likely structural lesion with neg recent
   MRI. Continues to be altered this AM but some improvement as now
   tracking to voice.
   - Cte to allow sedation to wash out but will uptitrate fentanyl patch
   for pain ctrl; consider ativan if tachycardic/diaphoretic
   - Haldol PRN for agitation if necessary
   # Head twitching: No evidence of venous sinus thrombosis or other
   intracranial process on MRI/MRV on [**2165-4-25**]. LP c/w bacterial meningitis.
   New head twitching yesterday with no evidence of change on CT head; low
   likelihood sz per Neuro but given question of T1 lesion of CT spine,
   concern for cord issue. Ability to further evaluate via MRI limited by
   habitus with no indication for CT myelogram per Dr. [**Last Name (STitle) 937**] (rads).
   - Hold off on MRI (would required OSH transfer) for now while
   monitoring for worsening in mental status
   - f/u Neurosurgery recs
   # ID:  Patient with high grade MSSA bacteremia/UTI/osteomyelitis, CSF
   c/w meningitis with neg cx (likely treated), MRSA pneumonia. TEE [**2165-4-25**]
   ruled out endocarditis. Cont to have low-grade fever but WBC trending
   down and pt remains hemodynamically stable. Foley changed with negative
   urine cx; no evidence of renal abscess on U/S. Fem HD line also
   replaced with tunneled HD cath yesterday.
   - Trend WBC and fever curve; f/u pending cultures (unclear why sputum
   cx not resent)
   - ESR and CRP very high and will monitor with Abx treatment
   - Cont vanc (redoss todayl); consider cefepime if clinically worsens
   - PICC Line in place for long term Abx
   - F/u ID recs
   # HTN: Started [**2165-4-27**] during dialysis. Etiologies include pain,
   essential htn, fever related.  Better ctrl with pain ctrl and on
   standing beta blocker.  Cuff systolic pressure 20 points lower that
   A-line and diastolic the same
 a-line d/c
   - Uptitrate fentanyl patch
   - Continue metoprolol 75mg po qid
   - Continue hydralazine, but try to wean as pressure tolerates
   - Continue UF as tolerated for volume
   - D/c losartan per renal
   # Respiratory Failure: Sputum cx grew MRSA. Now extubated. ABG showed
   adequate oxygenation post-extubation.
   - Continue Vanc. If worsens, consider broadening abx to cover
   aspiration or HAP
   - Repeat sputum cx ordered but not yet sent
   - F/u AM CXR
   - Okay to re-intubate per family
   # Anemia: Transfused 2 units for slowly downtrending Hct <21 yesterday
   with 4-pt Hct bump, stable overnight. Of note, pt is getting epo w/ HD.
   - Guaiac stools
   - Repeat PM Hct
   - Consider further w/u if continues to downtrend (add on hemolysis labs
   to yesterday
s pre-transfusion labs, consider RP bleed)
   # ARF: Initiated HD per renal for persistent oliguria with IR-guided
   tunneled cath placed yesterday.  Muddy brown casts seen and ATN
   suspected from sepsis and hypotension.
   - F/u Renal recs
   - Cont HD per renal team
   # L foot ulcer
   - ESR and CRP very high and will monitor with Abx treatment
   - Podiatry and vascular surgery stated they would defer amputation and
   await stabilization/abx treatment of patient prior to surgery.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2165-5-3**] 03:44 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-5-1**] 04:21 AM
   PICC Line - [**2165-5-1**] 04:22 AM
   Tunneled (Hickman) Line - [**2165-5-2**] 05:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2165-05-04 06:45:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-3**]
   - Given lasix 120mg x 1 at 1pm for diuresis trial per Renal recs as did
   not think fluid overloaded enough to require ultrafiltration.
   - Given haldol o/n for agitation
   - Yeast from culture tip - fem HD, likely contaminant. Pt recultured.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2165-5-2**] 10:45 AM
   Vancomycin - [**2165-5-3**] 02:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2165-5-3**] 08:30 AM
   Furosemide (Lasix) - [**2165-5-3**] 01:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-5-4**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.6
C (99.7
   HR: 85 (69 - 89) bpm
   BP: 160/65(86) {132/53(69) - 166/73(90)} mmHg
   RR: 17 (12 - 26) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
                  Total In:
                                                                  1,531 mL
                                                                    336 mL
   PO:
                  TF:
                                                                  1,201 mL
                                                                    336 mL
   IVF:
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,725 mL
                                                                    235 mL
   Urine:
                                                                  1,025 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -194 mL
                                                                    101 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   Physical Examination
   General Appearance: NAD
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: NG tube
   Cardiovascular: RRR, soft S1, S2, no M/R/G
   Respiratory / Chest: Symmetric but diminished BS throughout
   Abdominal: Soft
   Extremities: Right: 1+, Left: WWP
   Skin:  L foot with bandage C/D/I
   Neurologic: awake, oriented to person, responds appropriately to
   questions and commands but still waxing and [**Doctor Last Name 282**]
   Labs / Radiology
   340 K/uL
   7.7 g/dL
   188 mg/dL
   5.8 mg/dL
   26 mEq/L
   4.1 mEq/L
   54 mg/dL
   101 mEq/L
   137 mEq/L
   23.6 %
   11.5 K/uL
        [image002.jpg]
                             [**2165-4-29**]  01:57 AM
                             [**2165-4-29**]  02:12 AM
                             [**2165-4-30**]  03:28 AM
                             [**2165-4-30**]  04:01 AM
                             [**2165-5-1**]  04:45 AM
                             [**2165-5-1**]  04:20 PM
                             [**2165-5-2**]  12:52 AM
                             [**2165-5-2**]  11:13 PM
                             [**2165-5-3**]  05:46 AM
                             [**2165-5-4**]  05:00 AM
   WBC
   12.6
   15.8
   13.6
   12.8
   11.7
   11.5
   Hct
   22.9
   23.4
   21.7
   19.7
   23.9
   23.6
   23.6
   Plt
   365
   395
   367
   372
   360
   340
   Cr
   7.6
   8.6
   6.4
   7.5
   4.7
   5.8
   TCO2
   27
   26
   26
   Glucose
   90
   197
   119
   165
   206
   188
   Other labs: PT / PTT / INR:13.5/20.4/1.2, CK / CKMB /
   Troponin-T:264/7/0.12, ALT / AST:23/39, Alk Phos / T Bili:115/0.3,
   Amylase / Lipase:41/19, Differential-Neuts:79.4 %, Band:0.0 %,
   Lymph:13.5 %, Mono:5.0 %, Eos:1.6 %, Lactic Acid:0.9 mmol/L,
   Albumin:2.2 g/dL, LDH:245 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:4.6
   mg/dL
   Assessment and Plan
   55 yo male with DM 2, HTN, CAD s/p IMI and DES to RCAx3 transferred
   from OSH for high-grade MSSA bacteremia and L foot osteomyelitis, ARF,
   AMS with cx-neg meningitis, and MRSA pneumonia.
   # AMS: Etiologies include meningitis, ICU delirium, hypoxia, sedation
   effect, benzo withdrawal. Less likely structural lesion with neg recent
   MRI. Continues to be altered this AM but some improvement as now
   tracking to voice.
   - Cte to allow sedation to wash out but will uptitrate fentanyl patch
   for pain ctrl; consider ativan if tachycardic/diaphoretic
   - Haldol PRN for agitation if necessary
   # Head twitching: No evidence of venous sinus thrombosis or other
   intracranial process on MRI/MRV on [**2165-4-25**]. LP c/w bacterial meningitis.
   Developed head twitching with no evidence of change on CT head; low
   likelihood sz per Neuro but given question of T1 lesion of CT spine,
   concern for cord issue. Ability to further evaluate via MRI limited by
   habitus with no indication for CT myelogram per Dr. [**Last Name (STitle) 937**] (rads). Head
   twitching now resolved.
   - Hold off on MRI (would require OSH transfer) for now while monitoring
   for worsening in mental status
   - F/u any Neurosurgery recs
   # ID:  Patient with high grade MSSA bacteremia/UTI/osteomyelitis, CSF
   c/w meningitis with neg cx (likely treated), MRSA pneumonia. TEE [**2165-4-25**]
   ruled out endocarditis. Cont to have low-grade fever but WBC trending
   down and pt remains hemodynamically stable. Foley changed with negative
   urine cx; no evidence of renal abscess on U/S. Fem HD line also
   replaced with tunneled HD cath.
   - Trend WBC and fever curve; f/u pending cultures (unclear why sputum
   cx not resent)
   - ESR and CRP very high and will monitor with Abx treatment
   - Cont vanc (dosed by level); consider nafcillin if clinically worsens
   - PICC Line in place for long term Abx
   - F/u ID recs
   # HTN: Started [**2165-4-27**] during dialysis. Etiologies include pain,
   essential htn, fever related.  Better ctrl with pain ctrl and
   uptitrated antihypertensives
   - Uptitrate fentanyl patch
   - Continue metoprolol 75mg po qid
   - Continue hydralazine, but try to wean as pressure tolerates
   - Restarted losartan
   # Anemia: Transfused 2 units for slowly downtrending Hct <21 on [**5-1**]
   with 4-pt Hct bump, stable overnight. Of note, pt is getting epo w/ HD.
   - Guaiac stools
   - Consider further w/u if continues to downtrend (add on hemolysis
   labs, consider RP bleed)
   # ARF: Initiated HD per renal for persistent oliguria with IR-guided
   tunneled cath placed yesterday.  Muddy brown casts seen and ATN
   suspected from sepsis and hypotension.  Given 120mg of lasix yesterday
   with total of 1L UOP.
   - F/u Renal recs
   - Cont HD per renal team
   # L foot ulcer
   - ESR and CRP very high and will monitor with Abx treatment
   - Podiatry and vascular surgery stated they would defer amputation and
   await stabilization/abx treatment of patient prior to surgery.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2165-5-3**] 11:41 PM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2165-5-1**] 04:21 AM
   PICC Line - [**2165-5-1**] 04:22 AM
   Tunneled (Hickman) Line - [**2165-5-2**] 05:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate), ok to reintubate
   Disposition:Possibly call out to floor today or tomorrow.